US04056527
15.6 g (0.1 mole) of N-methyl-bis-(chlorocarbonyl)-amine were dissolved in 100 ml of benzene and added dropwise, whilst stirring, to 27.3 g (0.1 mole) of acetone-S-methyliso-thio-semicarbazone hydroiodide suspended in 100 ml of benzene. Thereafter, 30.3 g (0.3 mole) of triethylamine in 50 ml of benzene were slowly added dropwise. The mixture was stirred for a further hour and the precipitate was filtered off. The precipitate was introduced into 100 ml of chloroform and 100 ml of water and extracted by shaking. The chloroform phase was separated off, dried over calcium chloride and evaporated in vacuo, together with the benzene filtrate. The resudue was recrystallized from isopropanol. 17.3 g (76%) of 1-methyl-3-isopropylideneamino-4-methylmercapto-tetrahydro-1,3,5-triazine-2,6-dione were obtained as a colorless powder; melting point 130-132° C.

reactant | N-methyl-bis-(chlorocarbonyl)-amine | 0.1 mole, 15.6 g | CN(C(=O)Cl)C(=O)Cl | C3H3Cl2NO2
reactant | acetone-S-methyliso-thio-semicarbazone hydroiodide | 0.1 mole, 27.3 g | I.CSC(NN=C(C)C)=N
reactant | triethylamine | 0.3 mole, 30.3 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-methyl-3-isopropylideneamino-4-methylmercapto-tetrahydro-1,3,5-triazine-2,6-dione | 17.3 g, 76% | CN1C(N(C(NC1=O)SC)N=C(C)C)=O | C8H14N4O2S
